US04489089
5-Chloro-N-[5-(1H-imidazol-1-yl)pentyl]-2-thiophene carboxamide
A solution of 1.8 g. of 5-chlorothiophene-2-carbonyl chloride in 10 ml. of CH2Cl2 was added to a mixture of 1.52 g. of 1H-imidazole-1-pentanamine, 10 ml. of 1N NaOH and 50 ml. of CH2Cl2. The reaction mixture was stirred for 20 hours and then treated with 25 ml. of CH2Cl2 and 5 ml. of 1N NaOH. The layers were separated and the organic layer was washed with water, dried over MgSO4 and concentrated. The crystalline residue was washed with diethyl ether whereby the desired product, m.p. 123°-125° C., was obtained.

reactant | 5-chlorothiophene-2-carbonyl chloride | ClC1=CC=C(S1)C(=O)Cl | C5H2Cl2OS
reactant | 1H-imidazole-1-pentanamine | N1(C=NC=C1)CCCCCN | C8H15N3
reactant | NaOH | 1N | [OH-].[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-Chloro-N-[5-(1H-imidazol-1-yl)pentyl]-2-thiophene carboxamide | ClC1=CC=C(S1)C(=O)NCCCCCN1C=NC=C1 | C13H16ClN3OS
